US04018779
EXAMPLE 7 1-Ethyl-10,11-dihydro-4-(methylamino)benzo [4,5]cylohepta [1,2-b ]pyrazolo [4,3-e ]pyridin-5(1H)one
8.4 g. of 4-chloro-1ethyl-10,11-dihydrobenzo [4,5]cyclohepta [1,2-b ]pyrazolo [4,3-e ]pyridin-5(1H)one (0.027 mol.) dissolved in 90 ml. of an alcoholic methylamine solution (270 g/1) are allowed to stand at room temperature for five hours. After this time, 7.1 g. of precipitated 1-ethyl-10,11-dihydro-4-(methylamino)benzo [4,5]cyclohepta [1,2-b ]pyrazolo-[4,3-e ]pyridin-5(1H)one are collected, m.p. 148°-150°. A sample recrystallized from absolute ethanol melts at 149°-150°.

reactant | 4-chloro-1ethyl-10,11-dihydrobenzo [4,5]cyclohepta [1,2-b ]pyrazolo [4,3-e ]pyridin-5(1H)one | 0.027 mol | ClC1=C2C(=NC3=C1C=NN3CC)CCC3=C(C2=O)C=CC=C3 | C17H14ClN3O
reactant | methylamine | 270 g | CN | CH5N
product | 1-Ethyl-10,11-dihydro-4-(methylamino)benzo [4,5]cylohepta [1,2-b ]pyrazolo [4,3-e ]pyridin-5(1H)one | C(C)N1N=CC=2C(=C3C(=NC21)CCC2=C(C3=O)C=CC=C2)NC | C18H18N4O
